Name:  ___                      Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Penicillins
 
Attending: ___.
 
Chief Complaint:
chest pain, transfer from OSH

 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
Mr. ___ is a ___ year-old incarcerated gentleman with PMH 
pericarditis several years ago and asthma, now admitted from an 
OSH with chest pain, elevated troponins and ST elevations.

He reports that chest pain began about three days ago.  It is 
located centrally, under his sternum.  Pain feels like a 
"squeezing" with pressure.  When he presses on his chest, pain 
is charp.  Pain has been constant over the past three days, and 
he notices it more when he is lying down vs. standing up.  It is 
not worse when he leans forward.  Along with chest pain, he 
feels like his arms (over his triceps on both sides) feel like 
they're about to fall asleep (with numbness/tingling).  Chest 
pain is not worse with exertion.  He denies any shortness of 
breath, cough, difficulty breathing or pleuritic pain.  Pain 
feels similar to when he had pericarditis a few years ago; he 
does not know what the cause of his pericarditis was in the 
past.  He also denies fevers, chills, abdominal pain, nausea, 
vomiting, diarrhea, dysuria or hematuria.  He denies any sick 
contacts or recent travel.  He has tested negative for TB and 
HIV in the past.

He was first sent to ___, where labs were significant for 
CK 543, CK-MB 23.30, MRI 4.3 and troponin 0.872 at 21:30 on 
___ D-dimer quant 0.46 (ref range <0.50).  He was 
hemodynamically stable there with BP ranging 136-162/75-97, HR 
ranging 54-66, RR ranging ___, and SaO2 ranging 99-100% RA.  
He received aspirin, nitroglycerin SL x3, Toradol 30 mg IV and 
morphine 5 mg IV.  Pain was noted to improve with Toradol.  He 
was transferred to ___ ED for Cardiology eval and management.

In the ED, initial vitals were: 96.8 57 114/75 16 100% 2L NC.  
Labs were significant for troponin 0.89, CK 568, CK-MB 28, 
MB-index 4.9; lactate 0.8.  Serum tox screen was negative.  
Blood cultures were sent.  EKG showed sinus bradycardia at 58 
bpm, right axis deviation, 1-mm ST elevations in I, II, aVF, 
V2-V6 (consistent with prior at OSH).  U/S in the ED showed no 
effusion or WMA.  Brief Cardiology Consult believed presenation 
was consistent with myo/pericarditis, and recommended admission 
for serial EKGs and CEs, along with Rheumatologic and Infectious 
work-up.  Patient given ibuprofen 600 mg PO and morphine 4mg IV. 
 Vitals on transfer were: 97.5 59 102/46 18 100%.

On arrival to the floor, patient comfortable.  Pain was rated as 
___.
 
REVIEW OF SYSTEMS: Positive as noted above. 
On review of systems, he denies any prior history of stroke, 
TIA, deep venous thrombosis, pulmonary embolism, bleeding at the 
time of surgery, myalgias, joint pains, cough, hemoptysis, black 
stools or red stools. He denies recent fevers, chills or rigors. 
All of the other review of systems were negative.  
 
Cardiac review of systems is notable for absence of dyspnea on 
exertion, paroxysmal nocturnal dyspnea, orthopnea, ankle edema, 
palpitations, syncope or presyncope.  

 
Past Medical History:
1. CARDIAC RISK FACTORS: -Diabetes, -Dyslipidemia, -Hypertension 
 
2. CARDIAC HISTORY: pericarditis 
-CABG:  none
-PERCUTANEOUS CORONARY INTERVENTIONS:  none
-PACING/ICD:  none
3. OTHER PAST MEDICAL HISTORY: 
- asthma, no hospitalizations or intubations for asthma. 
Well-controlled on Flovent and albuterol as needed. 
- as noted above, has tested negative for TB and HIV in the past

 
Social History:
___
Family History:
Mother died of complications from HIV (secondary to side effects 
of medications).  There is also DM in his family.  He has a 
sister who is ___ years old and healthy.  No family history of 
early MI, arrhythmia, cardiomyopathies, or sudden cardiac death; 
otherwise non-contributory.  

 
Physical Exam:
admisson
VS- 97.8  114/78  56  18  99%RA
Pulsus: 6 mmHg
GENERAL- WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  Accompanied by 2 security guards.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI. Conjunctiva were 
pink, no pallor or cyanosis of the oral mucosa. No xanthalesma.  

NECK- Supple with no JVD.
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line.  Bradycardic, regular rhythm, normal S1/S2. No rubs. No 
murmurs or gallops. No thrills, lifts. No S3 or S4.  
LUNGS- No chest wall deformities, scoliosis or kyphosis. Resp 
were unlabored, no accessory muscle use. CTAB, no crackles, 
wheezes or rhonchi.  
ABDOMEN- Soft, NTND. No HSM or tenderness. Abd aorta not 
enlarged by palpation. No abdominial bruits.  
EXTREMITIES- No c/c/e. No femoral bruits.  
SKIN- No rashes.  
PULSES-  
Right: Carotid 2+ Radial 2+ DP 2+  
Left: Carotid 2+ Radial 2+ DP 2+  
NEURO- A, A+O x3.  CNs II-XII intact and symmetric.  Strength in 
UE and ___ ___ and symmetric.  Distal sensation intact. 

discharge
VS 98.1 62 125/70 18 100%RA
GENERAL- WDWN male in NAD. Oriented x3. Mood, affect 
appropriate.  Accompanied by 2 security guards.  
HEENT- NCAT. Sclera anicteric. PERRL, EOMI
CARDIAC- PMI located in ___ intercostal space, midclavicular 
line.  regular rhythm, normal S1/S2. No rubs. No murmurs or 
gallops. 
LUNGS- CTAB, no crackles, wheezes or rhonchi.  
ABDOMEN- Soft, NTND. 
EXTREMITIES- No c/c/e. 
SKIN- No rashes.  
NEURO- A+O x3

 
Pertinent Results:
admission labs

___ 07:30AM BLOOD WBC-5.0 RBC-4.76 Hgb-12.8* Hct-38.0* 
MCV-80* MCH-26.9* MCHC-33.7 RDW-13.3 Plt ___
___ 07:30AM BLOOD Glucose-81 UreaN-14 Creat-1.1 Na-142 
K-3.9 Cl-105 HCO3-29 AnGap-12
___ 12:30AM BLOOD CK-MB-28* MB Indx-4.9
___ 12:30AM BLOOD cTropnT-0.89*
___ 07:30AM BLOOD Calcium-8.9 Phos-3.2 Mg-2.0
___ 12:30AM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Bnzodzp-NEG Barbitr-NEG Tricycl-NEG
___ 12:41AM BLOOD Lactate-0.8

key labs & studies

___ 07:30AM BLOOD RheuFac- < 3
___ 07:30AM BLOOD ___

Labs at OSH significant for CK 543, CK-MB 23.30, MRI 4.3 and 
troponin 0.872 at 21:30 on ___ D-dimer quant 0.46 (ref 
range <0.50).  Otherwise chemistry panel, CBC and LFTs at OSH 
all WNL.

___ CXR
IMPRESSION:  Normal heart, lungs, hila, mediastinum and pleural 
surfaces.  No radiographic change since ___.  No 
evidence of elevated central venous, pulmonary venous or 
pulmonary arterial pressure. 

___ EKG (from OSH): NSR @ 60 bpm, NA/NI, 0.5-___levations in II, aVF, V2-V6.

___ EKG from ___ ED: 
Sinus bradycardia. Rightward axis. Minimal diffuse ST segment 
elevation which may be consistent with pericarditis. No previous 
tracing available for comparison.  

___ EKG from ___ ED: 
Sinus bradycardia. Rightward axis. Diffuse slight ST segment 
elevation could be consistent with pericarditis. Compared to the 
previous tracing no change. 

___ Echocardiography:
The left atrium is normal in size. The estimated right atrial 
pressure is ___ mmHg. Left ventricular wall thickness, cavity 
size and regional/global systolic function are normal (LVEF 
>55%). Transmitral and tissue Doppler imaging suggests normal 
diastolic function, and a normal left ventricular filling 
pressure (PCWP<12mmHg). Right ventricular chamber size and free 
wall motion are normal. The aortic valve leaflets (3) appear 
structurally normal with good leaflet excursion and no aortic 
stenosis or aortic regurgitation. The mitral valve appears 
structurally normal with trivial mitral regurgitation. The 
estimated pulmonary artery systolic pressure is normal. There is 
no pericardial effusion. 

IMPRESSION: Normal biventricular cavity sizes with preserved 
regional and global biventricular systolic function. No valvular 
pathology or pathologic flow identified. No pericardial 
effusion.
A cardiac MRI would be more sensitive for the identification of 
myocarditis or pericarditis

discharge labs

___ 07:35AM BLOOD WBC-4.4 RBC-4.83 Hgb-12.9* Hct-38.2* 
MCV-79* MCH-26.8* MCHC-33.8 RDW-13.3 Plt ___
___ 07:35AM BLOOD Glucose-88 UreaN-15 Creat-1.0 Na-140 
K-4.3 Cl-105 HCO3-28 AnGap-11
 
Brief Hospital Course:
Mr. ___ is a ___ year-old incarcerated gentleman with PMH 
pericarditis several years ago and asthma, now admitted from an 
OSH with chest pain, elevated troponins and ST elevations c/w 
myopericarditis.

# Myopericarditis: Patient presented with chest pain worse with 
lying down and diffuse ST elevations on serial EKGs. Syndrome 
was responsive to NSAIDs as well.  Along with transient 
elevation of cardiac enzymes, this presentation was felt to be 
consistent with myopericarditis. We did consult cardiology for 
their input on management. Ultrasound performed at the bedside 
in ED was reassuring with no effusion visualized. Dedicated 
echocardiography was also performed (see results) which showed 
no evidence of effusion.  Patient remained hemodynamically 
stable.  Pulsus was performed serially on the floor, which 
remained within normal limits.  We treated the patient with 
ibuprofen, acetaminophen, and opioids for breakthrough pain. 
Colchicine was also initiated to be given while patient was on 
ibuprofen.  Patient improved clinically and is being discharged 
with plan for outpatient follow up in cardiology.  Exact 
etiology of myopericarditis is uncertain at this point. 
Rheumatologic workup (consider SLE, RA, etc.) was pending on 
discharge (although rheumatoid factor was WNL). Basic infectious 
workup was also pending (HIV, HBV pending), but we have low 
suspicion these will return positive.  Perhaps the most likely 
etiology is viral (consider ___, parvovirus, Echovirus, 
adenovirus, CMV, HIV, EBV, mumps, varicella and hep B). We did 
not work up the patient for tuberculosis given lack of symptoms 
and normal chest Xray. Bacterial and fungal causes were felt to 
be less likely given patient otherwise well overall.

#  Asthma: Mild, without history of hospitalizations or 
intubation.  Well-controlled on home meds; continued home meds.

PENDING STUDIES/LABS:
- hepatitis B serologies
- HIV antibody

TRANSITIONAL ISSUES:
- patient should continue an additional ~2 weeks of ibuprofen 
and colchicine for management of myopericarditis, followed by a 
1 week taper thereafter
- patient should follow up as outpatient with ___ cardiology
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Fluticasone Propionate 110mcg 2 PUFF IH BID 
2. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 

 
Discharge Medications:
1. Albuterol Inhaler ___ PUFF IH Q4H:PRN SOB, wheezing 
2. Fluticasone Propionate 110mcg 2 PUFF IH BID 
3. Acetaminophen 650 mg PO Q6H:PRN fever, pain 
RX *acetaminophen [8 HOUR PAIN RELIEVER] 650 mg 1 tablet(s) by 
mouth Q6H:PRN Disp #*24 Tablet Refills:*0
4. Ibuprofen 600 mg PO Q8H 
RX *ibuprofen 600 mg 1 tablet(s) by mouth every eight (8) hours 
Disp #*60 Tablet Refills:*0
5. Docusate Sodium 100 mg PO BID 
RX *docusate sodium [Colace] 100 mg 1 capsule(s) by mouth twice 
a day Disp #*30 Capsule Refills:*0
6. Polyethylene Glycol 17 g PO DAILY:PRN constipation 
RX *polyethylene glycol 3350 [Miralax] 17 gram/dose 1 packet by 
mouth DAILY:PRN Disp #*20 Packet Refills:*0
7. OxycoDONE (Immediate Release)  ___ mg PO Q4H:PRN pain 
RX *oxycodone 5 mg ___ tablet(s) by mouth Q4H:PRN Disp #*45 
Tablet Refills:*0
8. Colchicine 0.6 mg PO DAILY 
RX *colchicine [Colcrys] 0.6 mg 1 tablet(s) by mouth DAILY Disp 
#*20 Tablet Refills:*0

 
Discharge Disposition:
Extended Care
 
Facility:
___
 
Discharge Diagnosis:
Myopericarditis
Asthma
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Mr. ___:

It was a pleasure to take care of you. You were admitted to the 
___ for management of myopericarditis, an inflammatory process 
involving the heart and the tissues directly surrounding the 
heart. It is likely that the inflammation is secondary to a 
common virus. We treated you with supportive care (with NSAIDs 
and pain control), with improvement. We also performed several 
studies of your heart including EKGs, telemetry (continual 
monitoring), and echocardiography.  These were reassuring that 
there were no concerning complications at this time.  You should 
continue to improve over time with supportive care.

Please review your medication list closely.
 
Followup Instructions:
___